US07259266B2
Step 1. Preparation of 3-chloro-2-hydroxy-5-iodobenzaldehyde
To 24 g (96.8 mmole) of 5-iodosalicylaldehyde in 320 mL of acetic acid was added an excess of gaseous chlorine. After addition of about 10 g of Cl2, a white solid appeared in the solution. The mixture was heated to 70° C. and allowed to stir for 3 h. The heated solution was homogeneous and remained so after cooling to rt. The mixture was added to 1200 mL of water and allowed to stir for 1 h. The resultant solid was collected by filtration, washed with water, filtered and allowed to air dry to afford 27.3 g of a yellow solid. The solid was recrystallized by dissolving the material in 250 mL of hot methanol and adding 80 mL of H2O. After standing overnight, the crystalline solid was collected and air-dried to afford 20.3 g (74.2%) of a yellow solid. The product contained a minor impurity (approx. 9% by 1H NMR) and was used in the next step without further purification: 1H NMR (CDCl3/400 MHz) 7.78 (d, 1H, J=2.1 Hz), 7.88 (d, 1H, J=1.8 Hz), 9.83 (s, 1H), 11.40 (s, 1H); 13C NMR (CDCl3/100 MHz) 79.5, 122.8, 123.7, 140.3, 144.4, 156.9, 194.8; MS (ESI+) 283 (M+1, 100); HRMS (El) m/z calcd for (C7H4O2ICl) 281.8945, found 281.8899.

reactant | 5-iodosalicylaldehyde | 96.8 mmole, 24 g | IC1=CC=C(C(C=O)=C1)O | C7H5IO2
reactant | chlorine | ClCl | Cl2
reactant | Cl2 | about 10 g | ClCl | Cl2
reactant | water | 1200 mL | O | H2O
solvent | acetic acid | 320 mL | C(C)(=O)O | C2H4O2
product | 3-chloro-2-hydroxy-5-iodobenzaldehyde | 27.3 g | ClC=1C(=C(C=O)C=C(C1)I)O | C7H4ClIO2
